US06555556B1
4-(1-t-Butoxycarbonylpiperidin-4-yloxy)-3,5-dimethylnitrobenzene
To a solution of 1-t-butoxycarbonyl-4-hydroxypiperidine (2.40 g), 2,6-dimethyl-4-nitrophenol (1.50 g) and triphenylphosphine (3.06 g) in dichloromethane (60 ml) was added dropwise diethyl azodicarboxylate (1.80 ml) in an ice bath and the mixture was stirred at room temperature for 19 hours. The reaction mixture was concentrated in vacuo. The residue was purified by chromatography on a silica gel column using hexane/ethyl acetate=5/1 as an eluant to give the desired compound (2.25 g, yield 71%) as a colorless solid.

reactant | 1-t-butoxycarbonyl-4-hydroxypiperidine | 2.40 g | C(C)(C)(C)OC(=O)N1CCC(CC1)O | C10H19NO3
reactant | 2,6-dimethyl-4-nitrophenol | 1.50 g | CC1=C(C(=CC(=C1)[N+](=O)[O-])C)O | C8H9NO3
reactant | triphenylphosphine | 3.06 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 1.80 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
product | 4-(1-t-Butoxycarbonylpiperidin-4-yloxy)-3,5-dimethylnitrobenzene | 2.25 g, yield 71% | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C=C(C=C1C)[N+](=O)[O-])C | C18H26N2O5
